US05409943
(b) N-(3-(2,6-Dichlorobenzyloxy)-pyrid-2-yl)-N'-(4-chlorophenyl)guanidine
A mixture of yellow mercuric oxide (1.18g, 0.0054mol), N-[3-(2-,6-dichlorobenzyloxy)pyrid-2-yl]-N'-4-chlorophenylthiourea (2.0g, 0.0045mol) and methanolic ammonia solution (40 ml) was stirred for 5 days at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent followed by recrystallisation from ethanol gave the desired product. Yield 1.54 g (81%), m.p. 192°-195 ° C.

reactant | N-[3-(2-,6-dichlorobenzyloxy)pyrid-2-yl]-N'-4-chlorophenylthiourea | 0.0045mol, 2.0g | ClC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC=C1)Cl | C19H14Cl3N3OS
reactant | ammonia | 40 ml | N | H3N
product | N-(3-(2,6-Dichlorobenzyloxy)-pyrid-2-yl)-N'-(4-chlorophenyl)guanidine | ClC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=C(C=C2)Cl)C(=CC=C1)Cl | C19H15Cl3N4O
